US07276502B2
[4-(5-Dimethylamino-thiazol-2-yl)-pyrimidin-2-yl]-(3,5-dimethyl-phenyl)-amine
This compound was prepared from 1-(5-Dimethylamino-thiazol-2-yl)-ethanone (prepared from dimethylamine and 1-(5-Bromo-thiazol-2-yl)-ethanone in a procedure similar to that described in method I) and N-(3,5 dimethylphenyl) guanidinium nitrate (prepared using a procedure similar to that described in WO9719065) using procedures similar to those described in methods E-F. The product was isolated as a yellow solid (40% last step); IR (solid) 1738, 1365, 1217, cm−1; 1H NMR (400 Mhz, CDCl3) δ 2.35 (6H, s), 3.1 (6H, s), 6.75 (1H, s), 7.00 (1H, s), 7.37 (1H, s), 7.4 (2H, s), 8.45 (1H, d);); MS (ES+) 326.2 (M+1), (ES−) 324.2 (M−1).

reactant | 1-(5-Dimethylamino-thiazol-2-yl)-ethanone | CN(C1=CN=C(S1)C(C)=O)C | C7H10N2OS
reactant | dimethylamine | CNC | C2H7N
reactant | 1-(5-Bromo-thiazol-2-yl)-ethanone | BrC1=CN=C(S1)C(C)=O | C5H4BrNOS
reactant | N-(3,5 dimethylphenyl) guanidinium nitrate | [N+](=O)([O-])[O-].CC=1C=C(C=C(C1)C)NC(=[NH2+])N
product | [4-(5-Dimethylamino-thiazol-2-yl)-pyrimidin-2-yl]-(3,5-dimethyl-phenyl)-amine | CN(C1=CN=C(S1)C1=NC(=NC=C1)NC1=CC(=CC(=C1)C)C)C | C17H19N5S
